US07977344B2
2-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)ethanol
A stirred suspension of sodium borohydride (0.620 g, 16.39 mmol) in dry ethanol (20 ml) was cooled to 0° C. (ice bath) under nitrogen and a solution of (2,2-dimethyltetrahydro-2H-pyran-4-yl)acetaldehyde (2.56 g, 16.39 mmol) in ethanol (20 ml) was added dropwise over a period of 20 mins. The mixture was then stirred in the cold for a further 1 hour then allowed to warm to ambient and stirred for 72 hours. The solvent was removed by evaporation and the residual oil was poured into ice and extracted with DCM (3×30 ml). Combined the organic extracts and dried by passing through a hydrophobic frit and evaporated in vacuo to give a colourless oil which contained the title compound.

reactant | sodium borohydride | 16.39 mmol, 0.620 g | [BH4-].[Na+]
reactant | (2,2-dimethyltetrahydro-2H-pyran-4-yl)acetaldehyde | 16.39 mmol, 2.56 g | CC1(OCCC(C1)CC=O)C | C9H16O2
solvent | ethanol | 20 ml | C(C)O | C2H6O
solvent | ethanol | 20 ml | C(C)O | C2H6O
product | 2-(2,2-Dimethyltetrahydro-2H-pyran-4-yl)ethanol | CC1(OCCC(C1)CCO)C | C9H18O2
